US04009170
Valeraldehyde (5.14 g.) was added to a refluxing solution of 1-hydrazino-3,4-dihydroisoquinoline (8 g.) in ether (300 ml.). The mixture was allowed to stand (for 45 min.) at room temperature. Ethereal hydrochloric acid was added. Recrystallization of the resulting solid from ethanol-ether gave 1-(2-pentylidenehydrazino)-3,4-dihydroisoquinoline (I: X=CH3 (CH2)3, X'=Y=Y'=Z=Z'=H) hydrochloride in two crops (11.6 g. and 0.2 g., m.p. 147°-148° C.).

reactant | Valeraldehyde | 5.14 g | C(CCCC)=O | C5H10O
reactant | 1-hydrazino-3,4-dihydroisoquinoline | 8 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
product | 1-(2-pentylidenehydrazino)-3,4-dihydroisoquinoline | C(CCCC)=NNC1=NCCC2=CC=CC=C12 | C14H19N3
